US07645764B2
4-Methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzoic acid methyl ester was treated with OXONE™ following the procedure of step 3 of Example 1, and the resulting sulfonyl compound was treated with 4-amino-tetrahydropyran using the procedure of step 4 of Example 1, to give 4-methyl-3-[8-methyl-7-oxo-2-(tetrahydro-pyran-4-ylamino)-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl]-benzoic acid methyl ester: MS (M+H)=409; MP=122.5-126.5° C.

reactant | 4-Methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C)=O | C18H17N3O3S
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | 4-amino-tetrahydropyran | NC1CCOCC1 | C5H11NO
product | 4-methyl-3-[8-methyl-7-oxo-2-(tetrahydro-pyran-4-ylamino)-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl]-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)C1=CC2=C(N=C(N=C2)NC2CCOCC2)N(C1=O)C)=O | C22H24N4O4
